US04252817
(b) 5-Methoxy-2-methyl-4-biphenylacetic acid
4 g of 2-Formyl-5-methoxy-4-biphenylacetic acid are dissolved in 300 ml of dry tetrahydrofuran and 2.5 g of sodium borohydride added. The reaction mixture is warmed to 80° for 40 minutes and, after cooling, dropped onto 150 g of ice, acidified with 2 N hydrochloric acid and extracted three times with ethyl acetate. The organic phases are washed with saturated brine, dried over Na2SO4 and concentrated. The residue is hydrogenated in 200 ml of ethyl acetate in the presence of 250 mg of Pd (10% on active charcoal) at a hydrogen pressure of 2 atmospheres. After three hours, the reaction mixture is filtered through talc and the filtrate evaporated. The product is recrystallized from ethyl acetate. M. pt. 127°-128°.

reactant | 2-Formyl-5-methoxy-4-biphenylacetic acid | 4 g | C(=O)C1=C(C=C(C(=C1)CC(=O)O)OC)C1=CC=CC=C1 | C16H14O4
reactant | sodium borohydride | 2.5 g | [BH4-].[Na+]
reactant | hydrochloric acid | 2 N | Cl | ClH
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
product | 5-Methoxy-2-methyl-4-biphenylacetic acid | COC=1C(=CC(=C(C1)C1=CC=CC=C1)C)CC(=O)O | C16H16O3
